US05422211
The reaction of an alkylamine, such as o-ethylaniline, with an acetic acid anhydride to form an acetanilide, such as 2'-ethylacetanilide. The resulting acetanilide can then be reacted with a hydrogen halide, such as hydrogen chloride, in the presence of hydrogen peroxide to form a halogenated product in the para position of the acetyl group, such as 2'-ethyl-4'-chloroacetanilide. The halogenated acetanilide can be hydrolyzed in an aqueous alcoholic solution of hydrochloric acid to form a halogenated o-ethylaniline, such as 2-ethyl-4-chloroaniline. This halogenated o-ethylaniline is then reaction with a phenyl 2-hydroxy-11H-benzo(a)carbazole-3-carboxylate derivatives, such as phenyl 2-hydroxy-8-fluoro-11H-benzo(a)carbazole-3-carboxylate, phenyl 2-hydroxy-8-chloro-11H-benzo(a)carbazole-3-carboxylate, or phenyl 2-hydroxy-11H-benzo(a)carbazole-3-carboxylate to form the corresponding carbazole anilide coupler such as 2-hydroxy-8-fluoro-11H-benzo(a)carbazole- 3-carbox-2'-ethyl-4'-chloroanilide, 2-hydroxy-8-chloro-11H-benzo(a)carbazole-3-carbox-2'-ethyl-4'-chloroanilide, 2-hydroxy-11H-benzo(a)carbazole-3-carbox-2'-ethyl-4'-chloroanilide, etc. These new carbazole anilide couplers can then be used to synthesize the trisazo pigments of the present invention.

reactant | 2-ethyl-4-chloroaniline | C(C)C1=C(N)C=CC(=C1)Cl | C8H10ClN
reactant | phenyl 2-hydroxy-11H-benzo(a)carbazole-3-carboxylate | OC=1C(=CC=2C(=C3NC4=CC=CC=C4C3=CC2)C1)C(=O)OC1=CC=CC=C1 | C23H15NO3
reactant | phenyl 2-hydroxy-8-fluoro-11H-benzo(a)carbazole-3-carboxylate | OC=1C(=CC=2C(=C3NC4=CC=C(C=C4C3=CC2)F)C1)C(=O)OC1=CC=CC=C1 | C23H14FNO3
reactant | phenyl 2-hydroxy-8-chloro-11H-benzo(a)carbazole-3-carboxylate | OC=1C(=CC=2C(=C3NC4=CC=C(C=C4C3=CC2)Cl)C1)C(=O)OC1=CC=CC=C1 | C23H14ClNO3
product | carbazole anilide | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)NC1=CC=CC=C1 | C19H14N2O
